* C:\Users\elima\OneDrive\Documents\GitHub\Inductor_Saturation_Tester\Inductor_Saturation_Tester-KiCAD\Saturation_Tester.asc
R1 N003 0 1k
V1 Start 0 PULSE(0 5 1m 1n 1n 1m)
V2 V+ 0 5
M1 N005 N008 N015 N015 Si7336ADP
L1 N004 N005 10m Ipk=10 Rser=0.0226 flux=10m*5*tanh(x*(1/5))
R2 V+ N001 1k
M2 N004 N002 V+ V+ FDR840P
XU1 N011 N016 N010 opamp Aol=100K GBW=10Meg
R3 N015 0 10m
V3 N016 0 50m
R4 N015 N011 10k
R5 N011 N010 10Meg
R6 N010 ILim 1k
D1 N005 V+ 1N5817
D2 0 N004 1N5817
XU2 0 N009 N006 ILim N012 0 NC_01 V+Log NE555
C3 N012 0 10n
C4 N014 Start 1u
D3 N014 N013 1N5817
R8 N013 0 1k
A1 N006 Start 0 0 0 N007 N003 0 OR Vhigh = 5
R9 N006 0 1k
V4 V+Log 0 5
Q6 N009 N013 0 0 2N3904
R10 V+Log N009 1k
M3 N008 N003 0 0 BSS145
M4 N008 N003 V+ V+ BSS84
M5 N002 N001 0 0 BSS145
M6 N002 N001 V+ V+ BSS84
M7 N001 N003 0 0 BSS145
.model D D
.lib C:\Users\elima\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\elima\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\elima\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 11m startup
.lib opamp.sub
.lib NE555.sub
.backanno
.end
